US04647398
Commercially available p-hydroxybenzaldehyde (50 g) was dissolved in pyridine (400 ml), followed by dropwise adding octyl chloroformate (85 g) under ice cooling, heating on a water bath, allowing to stand overnight, adding toluene (300 ml), further adding 6N-hydrochloric acid, separating the liquid layer, further washing with 2N-NaOH aqueous solution, washing with water, drying, and distilling off toluene to obtain a raw product of p-octyloxycarbonyloxybenzaldehyde (75 g).

reactant | p-hydroxybenzaldehyde | 50 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | octyl chloroformate | 85 g | ClC(=O)OCCCCCCCC | C9H17ClO2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | p-octyloxycarbonyloxybenzaldehyde | 75 g | C(CCCCCCC)OC(=O)OC1=CC=C(C=O)C=C1 | C16H22O4
